US06107329
(S)-[1-Dimethylcarbamoyl-2-(4-hydroxy-phenyl)-ethyl]-carbamic acid tert-butyl ester
Dimethylamine hydrochloride (79 mmol) and Boc-L-tyrosine (66 mmol) were coupled according to Procedure A (0-25° C. reaction temperature, 12:1 dichloromethane/DMF reaction solvent, 60 hour reaction time) and the product purified by chromatography on silica gel eluted with 10, 20, 30, 50 and 70% ethyl acetate in hexanes. Yield 20.6 g, 102%; HPLC (60/40) 3.21 minutes (96%).

reactant | Dimethylamine hydrochloride | 79 mmol | Cl.CNC
reactant | Boc-L-tyrosine | 66 mmol | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=C(C=C1)O)C(=O)O | C14H19NO5
solvent | dichloromethane DMF | ClCCl.CN(C)C=O
product | (S)-[1-Dimethylcarbamoyl-2-(4-hydroxy-phenyl)-ethyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H](CC1=CC=C(C=C1)O)C(N(C)C)=O)=O | C16H24N2O4
